US07153854B2
A mixture of ethyl 5-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate (167 mg) and copper(I) cyanide (37 mg) in 1-methyl-2-pyrrolidinone (3 mL) was stirred at 170° C. for 4 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (20:1–5:1) to give ethyl 5-[4-(5-cyano-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate as an yellow oil (88 mg).

reactant | ethyl 5-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 167 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C)C(=CC2)CC | C22H26BrN3O2
reactant | copper(I) cyanide | 37 mg | [Cu]C#N
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl 5-[4-(5-cyano-3-pyridinyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 88 mg | C(#N)C=1C=C(C=NC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C)C(=CC2)CC | C23H26N4O2
